US08293917B2
To a solution of 2-methyl-propane-2-sulfinic acid 1-(5-bromo-pyridin-3-yl)-methylideneamide (22 g, 74 mmol) in anhydrous THF (750 mL) at −78° C. is added n-propylmagnesium chloride (2.0 N in ether, 89 mL, 180 mmol) dropwise over 15 min. After stirring at −78° C. for 3 hours, the reaction mixture is then allowed to warm gradually to room temperature overnight. The reaction mixture is quenched by slow addition of saturated aqueous ammonium chloride solution (100 mL) and extracted with EtOAc (2×300 mL). The combined organic phases are washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo. The crude material is purified by flash chromatography on silica gel (eluted with 20 to 50% EtOAc/hexanes) to afford 2-methyl-propane-2-sulfinic acid 1-(5-bromo-pyridin-3-yl)-butylamide (16 g, 65%) as a yellow solid.

reactant | 2-methyl-propane-2-sulfinic acid 1-(5-bromo-pyridin-3-yl)-methylideneamide | 74 mmol, 22 g | BrC=1C=C(C=NC1)C=NS(=O)C(C)(C)C | C10H13BrN2OS
reactant | n-propylmagnesium chloride | 180 mmol, 2.0 N, 89 mL | C(CC)[Mg]Cl
solvent | THF | 750 mL | C1CCOC1 | C4H8O
product | 2-methyl-propane-2-sulfinic acid 1-(5-bromo-pyridin-3-yl)-butylamide | 16 g, 65% | BrC=1C=C(C=NC1)C(CCC)NS(=O)C(C)(C)C | C13H21BrN2OS
